US07173045B2
N-(4-Dimethylamino-4-phenylcyclohexylmethyl)-2-(1H-indol-3-yl)propionamide hydrochloride, non-polar diastereoisomer
The non-polar diastereoisomer of (4-aminomethyl-1-phenylcyclohexyl)dimethylamine (232 mg, 1.0 mmol.) and 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride (415 mg, 1.5 mmol.) were added to a solution of 3-(1H-indol-3-yl)propionic acid (189 mg, 1.0 mmol.) in abs. methanol, and stirring was carried out for 20 h at RT. For working up, the mixture was concentrated, the residue was taken up in water (10 ml) and ether (10 ml), and the phases were separated. The aqueous phase was adjusted to pH 11 with 5M NaOH and extracted with EE (4×10 ml). The combined organic extracts were washed with 1M NaOH (2×3 ml), dried, filtered and concentrated. For the preparation of the hydrochloride, the resulting non-polar diastereoisomer of N-(4-dimethylamino-4-phenylcyclohexylmethyl)-2-(1H-indol-3-yl)propionamide (220 mg, 0.54 mmol.) was dissolved in 2-butanone; chlorotrimethylsilane (104 μl, 0.82 mmol.) was added thereto, and stirring was carried out for 1 h at RT. After 1 h at 4° C., the resulting precipitate was filtered off with suction, washed with cold 2-butanone (1 ml) and cold ether (2×1 ml) and dried in vacuo. The target compound was obtained in a yield of 168 mg (colourless solid, m.p. 163–168° C. with decomposition).

reactant | (4-aminomethyl-1-phenylcyclohexyl)dimethylamine | 1.0 mmol, 232 mg | NCC1CCC(CC1)(C1=CC=CC=C1)N(C)C | C15H24N2
reactant | 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride | 1.5 mmol, 415 mg | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | 3-(1H-indol-3-yl)propionic acid | 1.0 mmol, 189 mg | N1C=C(C2=CC=CC=C12)CCC(=O)O | C11H11NO2
reactant | N-(4-dimethylamino-4-phenylcyclohexylmethyl)-2-(1H-indol-3-yl)propionamide | 0.54 mmol, 220 mg | CN(C1(CCC(CC1)CNC(C(C)C1=CNC2=CC=CC=C12)=O)C1=CC=CC=C1)C | C26H33N3O
reactant | chlorotrimethylsilane | 0.82 mmol, 104 μl | Cl[Si](C)(C)C | C3H9ClSi
solvent | 2-butanone | CC(CC)=O | C4H8O
solvent | methanol | CO | CH4O
product | N-(4-Dimethylamino-4-phenylcyclohexylmethyl)-2-(1H-indol-3-yl)propionamide hydrochloride | Cl.CN(C1(CCC(CC1)CNC(C(C)C1=CNC2=CC=CC=C12)=O)C1=CC=CC=C1)C | InChI=1S/C26H33N3O.ClH/c1-19(23-18-27-24-12-8-7-11-22(23)24)25(30)28-17-20-13-15-26(16-14-20,29(2)3)21-9-5-4-6-10-21;/h4-12,18-20,27H,13-17H2,1-3H3,(H,28,30);1H
